US04950666
Dimethylsulfoxide, 178 ml, was heated to 150° C. as nitrogen was bubbled through it. Sodium bicarbonate, 23.7 grams (0.282 mole), was added portionwise while maintaining the reaction mixture temperature at 140°-160° C. Upon completion of addition, 13.6 grams (0.037 mole) of methyl 11-(4-methylphenylsulfonyloxy)undecanoate was added portionwise during a ten minute period. Upon completion of addition the reaction mixture was allowed to cool to ambient temperature, and then it was poured into 600 ml of ice-water. The mixture was stirred until the ice melted, and then it was extracted with three portions of heptane. The combined extracts were washed with three portions of water followed by two portions of an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure yielding 7.8 grams of methyl 11-oxoundecanoate. The nmr spectrum was consistent with the proposed structure.

reactant | methyl 11-(4-methylphenylsulfonyloxy)undecanoate | 0.037 mole, 13.6 grams | CC1=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCCC(=O)OC | C19H30O5S
solvent | Dimethylsulfoxide | CS(=O)C | C2H6OS
product | methyl 11-oxoundecanoate | 7.8 grams | O=CCCCCCCCCCC(=O)OC | C12H22O3
